US05916728
Into a 500 ml four-necked flask purged with nitrogen were charged 25 g of poly (p-vinylphenol) ["VP-5000" manufactured by Nippon Soda K.K.] having a weight average molecular weight (Mw) of 8400 and a dispersion degree (Mw/Mn) of 1.19 (208 mmol as p-vinylphenol unit) and 0.024 g (0.125 mmol) of p-toluenesulfonic acid, and they were dissolved in 250 g of 1,4-dioxane. To this solution was added dropwise 9.0 g (125 mmol) of ethylvinyl ether, and then reaction was carried out for 5 hours at 25° C. This reaction solution was added dropwise into 1500 ml of ion-exchanged water, then separated by filtration to obtain a white wet cake. This wet cake was dissolved again in 200 g of 1,4-dioxane, and the resulting solution was added dropwise into 1500 ml of ion-exchanged water. The resulting mixture was separated by filtration. The wet cake thus obtained was washed by being stirred with 600 g of ion-exchanged water, followed by being filtered to obtain a wet cake. The washing operation with this ion-exchanged water was further repeated twice. The resulting white wet cake was dried under reduced pressure to obtain a resin in which the hydroxyl group of poly (p-vinylphenol) was partially 1-ethoxyethyl etherized. This resin was analyzed by 1H-NMR to find that 40% of the hydroxyl group was protected by a 1-ethoxylethyl group. This resin has a weight average molecular weight of 12300 and a dispersion degree of 1.23.

reactant | p-vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | p-toluenesulfonic acid | 0.125 mmol, 0.024 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylvinyl ether | 125 mmol, 9.0 g | C(C)OC=C | C4H8O
reactant | water | O | H2O
solvent | 1,4-dioxane | 250 g | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 200 g | O1CCOCC1 | C4H8O2
product | poly (p-vinylphenol) | C#CC1=CC=C(C=C1)O | C8H6O
